US05602145
e) 7-amino-2-methylcarbonylmethoxy-1,2,3,4-tetrahydroisoquinolin-1-one
A solution consisting of 2-methylcarbonylmethoxy-7-nitro-1,2,3,4-tetrahydroisoquinolin-1-one (500 mg, 1.9 mmol), 10% palladium on carbon (80 mg) and methanol (70 mL) was hydrogenated at 40 psi for 1 hour. The solution was filtered through Celite® and concentrated to give the title compound (400 mg, 90% yield).

reactant | 2-methylcarbonylmethoxy-7-nitro-1,2,3,4-tetrahydroisoquinolin-1-one | 1.9 mmol, 500 mg | CC(=O)CON1C(C2=CC(=CC=C2CC1)[N+](=O)[O-])=O | C12H12N2O5
catalyst | palladium on carbon | 80 mg | [Pd] | Pd
solvent | methanol | 70 mL | CO | CH4O
product | 7-amino-2-methylcarbonylmethoxy-1,2,3,4-tetrahydroisoquinolin-1-one | 400 mg, 90% yield | NC1=CC=C2CCN(C(C2=C1)=O)OCC(=O)C | C12H14N2O3
